US04835306
To a 5-liter, 3-necked, round-bottom flask, equipped with a stirrer and thermometer, is added 2.0 liters of concentrated H2SO4 and 800 g of powdered (about 1-2 microns) p-chlorobenzoic acid. The mixture is stirred and cooled to 0° C. in an oil bath. To the cooled mixture is added 432 ml of 71 weight percent nitric acid in water solution dropwise. The nitric acid solution is added at a rate slow enough to maintain the temperature lower than about 30° C. Upon completion of adding nitric acid, the temperature is raised to 37° C. over 3 hours. The reaction mixture is then cooled to 15° C. To the cooled mixture is added 0.75 liter of room temperature water at a rate so as to keep the reaction temperature below about 40° C. The product is isolated by filtration using fritted glass funnel and washed with 1.5 liters of room temperature water. The washed product is air-dried until a constant weight is observed to yield 1.0174 kg of 4-chloro-3-nitrobenzoic acid, which has a melting point of 178° C.-179.5° C. This is a yield of 99 mole percent. This material can be used without further purification.

reactant | H2SO4 | 2.0 liters | OS(=O)(=O)O | H2O4S
reactant | p-chlorobenzoic acid | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 4-chloro-3-nitrobenzoic acid | 1.0174 kg | ClC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
